US07834009B2
A solution of diethyl isopentylmalonate (2.31 g, 10 mmol) in a 6:2 mixture of anhydrous N,N-dimethylformamide/diethyl ether (8 mL) was stirred under a nitrogen environment at 25° C. and treated with a 60% oil dispersion of sodium hydride (480 mg, 12 mmol). The reaction mixture was stirred until the evolution of hydrogen gas ceased. The reaction was then treated dropwise via syringe with iodomethane (1.87 mL, 30 mmol) and stirred for 3 h at 25° C. The reaction was quenched with a 1.0 M aqueous hydrochloric acid solution (30 mL) and extracted with diethyl ether (2×50 mL). The combined organic layers were washed with a saturated aqueous sodium bicarbonate solution (50 mL) and brine (50 mL), dried over sodium sulfate, filtered, and concentrated in vacuo to give 2-methyl-2-(3-methyl-butyl)-malonic acid diethyl ester (2.09 g, 85%) as a clear oil. 1H NMR (400 MHz, CDCl3) δ: 0.88 (d, 6H, J=6.9 Hz), 1.06-1.12 (m, 2H), 1.24 (t, 6H, J=7.0 Hz), 1.38 (s, 3H), 1.51 (septet, 1H, J=6.6 Hz), 1.82-1.87 (m, 2H), 4.12-4.20 (m, 4H). LC-MS (ESI) calculated for C13H24O4: 244.3, found 245.3 [M+H+].

reactant | diethyl isopentylmalonate | 10 mmol, 2.31 g | C(CC(C)C)C(C(=O)OCC)C(=O)OCC | C12H22O4
reactant | sodium hydride | 12 mmol, 480 mg | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | iodomethane | 30 mmol, 1.87 mL | IC | CH3I
solvent | N,N-dimethylformamide diethyl ether | 8 mL | CN(C=O)C.C(C)OCC
product | 2-methyl-2-(3-methyl-butyl)-malonic acid diethyl ester | 2.09 g, 85% | C(C)OC(C(C(=O)OCC)(CCC(C)C)C)=O | C13H24O4
